US09289395B2
Senescence associated-β-Galactosidase (SA-β-Gal) Staining
Cells were seeded on 100-mm culture dishes and treated with doxorubicin, tetrac or both for 24 h, after which the cells were subjected to trypsin treatment at 37° C. for 3 min, fixed with 4% formalin in PBS, and washed with PBS. Then they were incubated with 0.1 μg/ml Hoechst 33248 (bisbenzimide, Sigma-Aldrich) and spotted on slides for microscopy. Positive cells are counted and their fractions between non treated and treated populations are compared.

reactant | doxorubicin | C[C@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2C[C@@](CC=3C2=C(C4=C(C3O)C(=O)C5=CC=CC(=C5C4=O)OC)O)(C(=O)CO)O)N)O | C27H29NO11
reactant | tetrac | C=1C(=CC(=C(C1I)OC=2C=C(C(=C(C2)I)O)I)I)CC(=O)O | C14H8I4O4
reactant | formalin | C=O | CH2O
product | β-Gal | O[C@H]1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO | C6H12O6
